US07674822B2
6-chloro-2-hydroxy-benzo[b]thiophene-3-carboxylic acid methyl ester (2.46 g, 10.1 mmol) was cooled to 0° C. in a solution of DCM (25 ml) and Et3N (25 ml). Tf2O (2.56 ml, 15.2 mmol, 1.5 equiv) was added dropwise, then stirred for 1 hr. The resulting solution was washed twice with water, saturated NaHCO3, then water, followed by drying over MgSO4. This was filtered and the solvent removed in vacuo. The crude material was purified by column chromatography leaving 2.61 g (68%) of 6-chloro-2-trifluoromethanesulfonyloxy-benzo[b]thiophene-3-carboxylic acid methyl ester as a white solid.

reactant | 6-chloro-2-hydroxy-benzo[b]thiophene-3-carboxylic acid methyl ester | 10.1 mmol, 2.46 g | COC(=O)C=1C2=C(SC1O)C=C(C=C2)Cl | C10H7ClO3S
reactant | DCM | 25 ml | C(Cl)Cl | CH2Cl2
reactant | Tf2O | 15.2 mmol, 2.56 ml, 1.5 equiv | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | Et3N | 25 ml | CCN(CC)CC | C6H15N
product | 6-chloro-2-trifluoromethanesulfonyloxy-benzo[b]thiophene-3-carboxylic acid methyl ester | 2.61 g, 68% | COC(=O)C=1C2=C(SC1OS(=O)(=O)C(F)(F)F)C=C(C=C2)Cl | C11H6ClF3O5S2
